US07064215B2
5-Chloro-3-(5-methyl-1H-benzimidazol-2-yl)-1H-indazole
A flask was charged with 5-chloro-1H-indazole-3-carbaldehyde (1.0 equivalent) and 3,4-diaminotoluene (1.0 equivalent) in toluene and ethanol (approximately 3:1). The flask was heated to 100° C. for 18 hours. The solvent was evaporated, and the residue purified by reverse phase HPLC to provide the desired product as a white solid. LC/MS (m/z) 283.1 (MH+), Rt 2.5 minutes.

reactant | 5-chloro-1H-indazole-3-carbaldehyde | 1.0 equivalent | ClC=1C=C2C(=NNC2=CC1)C=O | C8H5ClN2O
reactant | 3,4-diaminotoluene | 1.0 equivalent | NC=1C=C(C=CC1N)C | C7H10N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | C(C)O | C2H6O
product | 5-Chloro-3-(5-methyl-1H-benzimidazol-2-yl)-1H-indazole | ClC=1C=C2C(=NNC2=CC1)C1=NC2=C(N1)C=CC(=C2)C | C15H11ClN4
